US04158663
4H-1-Benzopyran-4-one-2-carboxaldehyde
A stirred solution of 2-(dimethoxymethyl)-4H-1-benzopyran- 4-one (1.1 g, 0.005 m) in 5 N hydrochloric acid (20 ml) was heated at 100° for 3 hours. The reaction mixture was cooled and extracted with CHCl3. The extracts were dried over MgSO4 and evaporated under reduced pressure to give a crystalline product. Recrystallization from ethyl acetate gave off-white crystals (710 mg, 81%), m.p. 159°-161°.

reactant | 2-(dimethoxymethyl)-4H-1-benzopyran- 4-one | 1.1 g | COC(C=1OC2=C(C(C1)=O)C=CC=C2)OC | C12H12O4
solvent | hydrochloric acid | 5 N, 20 ml | Cl | ClH
product | 4H-1-Benzopyran-4-one-2-carboxaldehyde | 710 mg, 81% | O1C(=CC(C2=C1C=CC=C2)=O)C=O | C10H6O3
